US04735959
4-[(α-Cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid
One and one-half grams (3.7 m mol) of ethyl 4-[(α-cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate in 15 ml of dioxane were stirred together with 3.7 ml of 1N sodium hydroxide solution for 45 minutes in a bath at 60° C. and for a further 45 minutes in a bath at 80° C. After cooling with ice, the mixture was combined with 3.7 ml of 1N hydrochloric acid, the dioxane was evaporated off in vacuo, and the residue was distributed between water and chloroform. The organic solution was extracted with a small amount of water, dried, filtered, and concentrated by evaporation in vacuo. The evaporation residue was purified by column chromatography on silica gel [chloroform/ethanol (5:1)].

reactant | ethyl 4-[(α-cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(#N)C(C1=C(C=CC=C1)N1CCCCC1)C(C1=CC=C(C(=O)OCC)C=C1)C(=O)N | C24H27N3O3
reactant | sodium hydroxide | 1N, 3.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3.7 ml | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-[(α-Cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid | C(#N)C(C1=C(C=CC=C1)N1CCCCC1)C(C1=CC=C(C(=O)O)C=C1)C(=O)N | C22H23N3O3
